US07071175B1
5-Bromo-6-methyl-pyridin-2-ylamine (25.0 g, 133.7 mmol) in THF/tert-butanol (1:10, 550 mL) was treated with di-tert-butyl dicarbonate (39.3 g, 180.0 mmol) and DMAP (2.40 g, 19.6 mmol). The reaction mixture was stirred for 4 h at 40° C. and concentrated under reduced pressure. Flash chromatography (methylene chloride) gave (5-bromo-6-methyl-pyridin-2-yl)-carbamic acid tert-butyl ester (17.0 g, 44%).

reactant | 5-Bromo-6-methyl-pyridin-2-ylamine | 133.7 mmol, 25.0 g | BrC=1C=CC(=NC1C)N | C6H7BrN2
reactant | di-tert-butyl dicarbonate | 180.0 mmol, 39.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF tert-butanol | 550 mL | C1CCOC1.C(C)(C)(C)O
catalyst | DMAP | 19.6 mmol, 2.40 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (5-bromo-6-methyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 17.0 g, 44% | C(C)(C)(C)OC(NC1=NC(=C(C=C1)Br)C)=O | C11H15BrN2O2
